US07666866B2
A. N4-[2-(1-tert-Butoxycarbonylpiperidin-4-yloxy)-4-tert-butylbenzoyl]-N3-(4-methoxybenzoyl)-3,4-pyridinediamine
Using methods substantially equivalent to those described in Example 101-D, 2-(N-Boc-piperidine-4-yloxy)-4-(tert-butyl)benzoic acid (1.0 g, 2.65 mmol) is converted into the acid chloride and used to acylate N3-(4-methoxybenzoyl)-3,4-pyridinediamine (600 mg, 2.47 mmol). After purification by chromatography (SiO2: 30% to 50% EtOAc in chloroform) 589 mg (40%) of the title compound is obtained.

reactant | 2-(N-Boc-piperidine-4-yloxy)-4-(tert-butyl)benzoic acid | 2.65 mmol, 1.0 g | C(=O)(OC(C)(C)C)N1CCC(CC1)OC1=C(C(=O)O)C=CC(=C1)C(C)(C)C | C21H31NO5
reactant | N3-(4-methoxybenzoyl)-3,4-pyridinediamine | 2.47 mmol, 600 mg | COC1=CC=C(C(=O)NC=2C=NC=CC2N)C=C1 | C13H13N3O2
product | N4-[2-(1-tert-Butoxycarbonylpiperidin-4-yloxy)-4-tert-butylbenzoyl]-N3-(4-methoxybenzoyl)-3,4-pyridinediamine | C(C)(C)(C)OC(=O)N1CCC(CC1)OC1=C(C(=O)NC2=C(C=NC=C2)NC(C2=CC=C(C=C2)OC)=O)C=CC(=C1)C(C)(C)C | C34H42N4O6
